US05776699
Ethyl 4-[2-(1,1-dimethyl-3-(4-methylphenyl)-5-indenyl)ethynyl]benzoate (Compound 47)
A solution of 32.0 mg (0.187 mmol) of 4-bromotoluene in 1.0 ml THF was cooled to -78° C. and 24.0 mg of t-butyllithium (0.375 mmol, 0.22 ml of a 1.7M solution in pentane) was slowly added. The yellow solution was stirred for 30 minutes at which time 29.8 mg (0.219 mmol) of ZnCl2 was added as a solution in 1.0 ml THF. The resulting solution was warmed to room temperature and after 30 minutes added to a second flask containing 29.0 mg (0.062 mmol) of ethyl 4-[2-(1,1-dimethyl-3-(trifluoromethylsulfonyl)oxy-5-indenyl) ethynyl]benzoate (Compound FF) and 2.9 mg (0.003 mmol) of tetrakis(triphenylphosphine)palladium (0) in 1.0 ml THF. The resulting solution was warmed to 50° C. for 1 hour and then stirred at room temperature for 4 hours. The reaction was quenched by the addition of saturated aqueous NH4Cl, and then extracted with Et2O. The combined organic layers were washed with water, saturated aqueous NaCl, and dried over MgSO4 before being concentrated under reduced pressure. The title compound was isolated as a colorless oil by column chromatography (10% Et2O/hexanes). 1H NMR (300 MHz, CDCl3): δ 8.03 (2H, d, J=8.5 Hz), 7.66 (1H, s), 7.58 (2H, d, J=8.5 Hz), 7.50 (2H, d, J=8.0 Hz), 7.46 (1H, d, J=7.9 Hz), 7.38 (1H, d, J=7.7 Hz), 7.28 (2H, d, J=9 Hz), 6.43 (1H, s), 4.40 (2H, q, J=7.2 Hz), 2.43 (3H, s), 1.41 (3H, t; +6H, s).

reactant | 4-bromotoluene | 0.187 mmol, 32.0 mg | BrC1=CC=C(C=C1)C | C7H7Br
reactant | t-butyllithium | 24.0 mg | C(C)(C)(C)[Li]
reactant | ethyl 4-[2-(1,1-dimethyl-3-(trifluoromethylsulfonyl)oxy-5-indenyl) ethynyl]benzoate | 0.062 mmol, 29.0 mg | CC1(C=C(C2=CC(=CC=C12)C#CC1=CC=C(C(=O)OCC)C=C1)OS(=O)(=O)C(F)(F)F)C | C23H19F3O5S
reactant | pentane | CCCCC | C5H12
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 0.219 mmol, 29.8 mg | [Cl-].[Cl-].[Zn+2]
catalyst | tetrakis(triphenylphosphine)palladium | 0.003 mmol, 2.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 4-[2-(1,1-dimethyl-3-(4-methylphenyl)-5-indenyl)ethynyl]benzoate | CC1(C=C(C2=CC(=CC=C12)C#CC1=CC=C(C(=O)OCC)C=C1)C1=CC=C(C=C1)C)C | C29H26O2
